US04614742
Synthesis of 2,4,5-Trifluoro-6-n-butylthioisophthalonitrile (i.e., Compound No. 52)
A 2.0 g amount of tetrafluoroisophthalonitrile and 0.87 g of potassium fluoride were dissolved in 10 ml of acetonitrile. After cooling to a temperature of 0° C., 0.90 g (1.04 ml) of n-butylmercaptan was gradually dropwise added to the mixture and the resultant mixture was stirred at a temperature of 0° C. or less for 12 hours. After 50 ml of water was added to the reaction mixture, the reaction mixture was extracted with chloroform and the extract was then washed with a saturated aqueous sodium bicarbonate solution, followed by drying with anhydrous magnesium sulfate. After distilling off the chloroform, the resultant crude product was distilled in vacuo. Thus, 2.08 g (77% yield) of the desired compound No. 52 was obtained.

reactant | tetrafluoroisophthalonitrile | FC1=C(C(=C(C(=C1C#N)F)C#N)F)F | C8F4N2
reactant | potassium fluoride | 0.87 g | [F-].[K+]
reactant | n-butylmercaptan | 1.04 ml, 0.90 g | C(CCC)S | C4H10S
reactant | water | 50 ml | O | H2O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2,4,5-Trifluoro-6-n-butylthioisophthalonitrile | 2.08 g, 77% yield | FC1=C(C#N)C(=C(C(=C1C#N)F)F)SCCCC | C12H9F3N2S
